US09428477B2
Production of 1-((E)-2-Decenoyl)-4-diethylaminomethylpiperidine [Compound 14]
The same procedures as in Example 2 were carried out using (E)-2-decenoic acid and 4-(diethylaminomethyl)piperidine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | 4-(diethylaminomethyl)piperidine | C(C)N(CC)CC1CCNCC1 | C10H22N2
product | 1-((E)-2-Decenoyl)-4-diethylaminomethylpiperidine | C(\C=C\CCCCCCC)(=O)N1CCC(CC1)CN(CC)CC | C20H38N2O
